US06784180B2
Preparation of 4-(3-Ethylbenzo[b]thien-2-yl)piperidine.
Scheme IA, Step C: To a mixture of 4-(3-ethylbenzo[b]thiophen-2-yl)-1,2,5,6-tetrahydropyridine (0.465 g, 1.91 mmol) in ethanol (15 mL) and 2,2,2-trifluoroethanol (5 mL) was added 10% palladium on carbon (0.25 g). The mixture was hydrogenated at one atmosphere for 24 hours. The mixture was carefully filtered and evaporated to give the intermediate title compound as a yellow amorphous solid (0.395 g, 84%). FDMS m/e=246 (M++1).

reactant | 4-(3-ethylbenzo[b]thiophen-2-yl)-1,2,5,6-tetrahydropyridine | 1.91 mmol, 0.465 g | C(C)C=1C2=C(SC1C1=CCNCC1)C=CC=C2 | C15H17NS
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | 2,2,2-trifluoroethanol | 5 mL | FC(CO)(F)F | C2H3F3O
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | 4-(3-Ethylbenzo[b]thien-2-yl)piperidine | 0.395 g, 84% | C(C)C=1C2=C(SC1C1CCNCC1)C=CC=C2 | C15H19NS
